US07732456B2
(4) Preparation of 4-(4-fluorobenzyloxy)-1-{4-[2-(1-pyrrolidinyl)-ethoxy]phenyl}-1H-pyrimidin-2-one
Step (3) of Example 12 was repeated except that 4-benzyloxy-1-(4-hydroxyphenyl)-1H-pyridin-2-one was replaced with 4-(4-fluorobenzyloxy)-1-(4-hydroxyphenyl)-1H-pyrimidin-2-one, to provide the title compound.

reactant | 4-benzyloxy-1-(4-hydroxyphenyl)-1H-pyridin-2-one | C(C1=CC=CC=C1)OC1=CC(N(C=C1)C1=CC=C(C=C1)O)=O | C18H15NO3
reactant | 4-(4-fluorobenzyloxy)-1-(4-hydroxyphenyl)-1H-pyrimidin-2-one | FC1=CC=C(COC2=NC(N(C=C2)C2=CC=C(C=C2)O)=O)C=C1 | C17H13FN2O3
product | 4-(4-fluorobenzyloxy)-1-{4-[2-(1-pyrrolidinyl)-ethoxy]phenyl}-1H-pyrimidin-2-one | FC1=CC=C(COC2=NC(N(C=C2)C2=CC=C(C=C2)OCCN2CCCC2)=O)C=C1 | C23H24FN3O3
